US08536214B2
(S)-ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (1.371 mmol, 630 mg) was dissolved in tetrahydrofuran (10 mL) and the vessel purged with nitrogen. Lithium aluminium hydride (1M, 1.371 mmol, 1.371 mL) was added dropwise and the mixture stirred at room temperature for 20 min. An additional quantity of lithium aluminium hydride (1M, 1.371 mmol, 1.371 mL) was added to complete the reaction. The reaction was quenched by addition of methanol followed by water before concentration. The residue was partitioned between 1N HCl and Ethylacetate and the organic phase collected. The aqueous phase was further extracted with EtOAc (×2). Combined organics were dried and concentrated before purification on silica eluting with 2% MeOH/DCM. Desired fractions were collected and concentrated to give (S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide as a colourless glass. (0.505 g, 88%) MS (ESI): m/z [M+H]+ 418.5

reactant | (S)-ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 1.371 mmol, 630 mg | C(C)OC(=O)C=1C(=NN(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C20H24F3N3O4S
reactant | Lithium aluminium hydride | 1.371 mmol, 1M, 1.371 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 1.371 mmol, 1M, 1.371 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | OCC=1C(=NN(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C18H22F3N3O3S
